US07582644B2
i) 6-Amino-2-[(3-chlorobenzyl)thio]pyrimidin-4(3H)-one
The subtitle compound was prepared according to the procedure of Example 1 step i) treating 4-amino-6-hydroxy-2-mercaptopyrimidine monohydrate (10.00 g) with 3-chlorobenzyl chloride (9.98 g) to afford the subtitle compound as a white solid. Yield: 15.00 g.

reactant | 4-amino-6-hydroxy-2-mercaptopyrimidine monohydrate | 10.00 g | O.NC1=NC(=NC(=C1)O)S
reactant | 3-chlorobenzyl chloride | 9.98 g | ClC=1C=C(CCl)C=CC1 | C7H6Cl2
product | 6-Amino-2-[(3-chlorobenzyl)thio]pyrimidin-4(3H)-one | NC1=CC(NC(=N1)SCC1=CC(=CC=C1)Cl)=O | C11H10ClN3OS
